US05296495
To a cooled solution of 4-tert-butyl-2-(5-hydroxybenzofuran-2-yl)thiazole (0.8 g) in tetrahydrofuran (16 ml), sodium hydride ((60% in mineral oil) 0.152 g) was added below 10° C. After being stirred for 30 minutes, α,α'-dichloroxylene (2.05 g) was added to the mixture. After subsequently being stirred at ambient temperature for 30 minutes, the mixture was refluxed for 9.5 hours. After the solvent was removed under reduced pressure, the residue was subjected to column chromatography on silica gel (25 g) and eluted with a mixture of n-hexane and toluene (1:1). The fractions containing object compound were combined and concentrated under reduced pressure to give an oil of 4-tert-butyl-2-[5-(2-chloromethylphenylmethoxy)benzofuran-2-yl]thiazole (0.9 g).

reactant | 4-tert-butyl-2-(5-hydroxybenzofuran-2-yl)thiazole | 0.8 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)O | C15H15NO2S
reactant | sodium hydride | 0.152 g | [H-].[Na+]
reactant | α,α'-dichloroxylene | 2.05 g | ClCC=1C(=CC=CC1)CCl | C8H8Cl2
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | 4-tert-butyl-2-[5-(2-chloromethylphenylmethoxy)benzofuran-2-yl]thiazole | 0.9 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(C=CC=C2)CCl | C23H22ClNO2S
